US07244843B2
Step A. Preparation N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-ethyl-7-methylsulfonyl-pyrazino[2,1-a]isoindol-6(2H)-one
To a stirring solution of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-ethyl-7-methylthio-pyrazino[2,1-a]isoindol-6(2H)-one (42 mg, 0.12 mmol) in dry MeOH (0.75 mL) and water (0.75 mL) was added oxone (93 mg, 0.15 mmol). The reaction was stirred for 4 h and then diluted with water. The reaction was extracted with EtOAc (3×5 mL). The organic layers were combined, dried over Na2SO4, and conc in vacuo to a yellow oil. The oil was purified by flash chromatography (SiO2, 0–50% EtOAc in hexanes) to yield 38 mg (84%) of the product as a colorless oil. MS (ESI) 395 (M+H).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-ethyl-7-methylthio-pyrazino[2,1-a]isoindol-6(2H)-one | 0.12 mmol, 42 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)CC)SC)=O)CC1 | C19H26N2O3S
reactant | oxone | 0.15 mmol, 93 mg | OOS(=O)[O-].[K+]
reactant | MeOH | 0.75 mL | CO | CH4O
solvent | water | 0.75 mL | O | H2O
product | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-ethyl-7-methylsulfonyl-pyrazino[2,1-a]isoindol-6(2H)-one | 38 mg, 84% | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)CC)S(=O)(=O)C)=O)CC1 | C19H26N2O5S
